US09227978B2
2-((4-Chloro-2-methoxy-5-(1-methylcyclopropyl)phenyl)amino)acetic acid
To a solution of ethyl 2-((4-chloro-2-methoxy-5-(1-methylcyclopropyl)phenyl)amino)acetate (630 mg, 2.12 mmol) in THF (15 mL) and water (5 mL), LiOH.H2O (889 mg, 21.2 mmol) was added and the resulting mixture was stirred at RT for 2 h. The mixture was washed with 20% ethyl acetate/petroleum ether. The aqueous layer was acidified with aqueous HCl (1N) to adjust pH to 3-4 and extracted with ethyl acetate. The organic layer was dried over MgSO4, filtered and concentrated in vacuo to afford the desired product (200 mg, 33% yield).

reactant | ethyl 2-((4-chloro-2-methoxy-5-(1-methylcyclopropyl)phenyl)amino)acetate | 2.12 mmol, 630 mg | ClC1=CC(=C(C=C1C1(CC1)C)NCC(=O)OCC)OC | C15H20ClNO3
reactant | LiOH.H2O | 21.2 mmol, 889 mg | O[Li].O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 2-((4-Chloro-2-methoxy-5-(1-methylcyclopropyl)phenyl)amino)acetic acid | 200 mg, 33% yield | ClC1=CC(=C(C=C1C1(CC1)C)NCC(=O)O)OC | C13H16ClNO3
